US07285572B2
Diethyl (4-bromophenyl)phosphonate
1,4-Dibromobenzene (2.36 g), diethyl phosphite (1.52 g) and triethylamine (1.53 ml) were dissolved in toluene, tetrakis(triphenylphosphine)palladium(0) (578 mg) was added, and the mixture was stirred at 80° C. for 2 hr. The reaction mixture was cooled to room temperature, and the mixture was extracted with ethyl acetate. The organic layer was washed successively with water and brine, dried over sodium sulfate, and concentrated under reduced pressure. The obtained residue was purified by silica gel column chromatography (hexane:ethyl acetate=1:1) to give the title compound (1.16 g).

reactant | 1,4-Dibromobenzene | 2.36 g | BrC1=CC=C(C=C1)Br | C6H4Br2
reactant | diethyl phosphite | 1.52 g | P(OCC)(OCC)[O-]
reactant | triethylamine | 1.53 ml | C(C)N(CC)CC | C6H15N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
catalyst | tetrakis(triphenylphosphine)palladium(0) | 578 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | Diethyl (4-bromophenyl)phosphonate | 1.16 g | BrC1=CC=C(C=C1)P(OCC)(OCC)=O | C10H14BrO3P
